US09062002B2
Synthesis of 1-benzyl-4-(3-methylbenzofuran-2-yl)piperidin-4-ol (3b)
To a stirred solution of 3a (500 mg, 3.79 mmol) in dry THF (5 ml) was dropwise added a solution of n-butyl lithium in n-hexane (1.6M, 2.69 ml, 4.38 mmol) at −78° C. The resulting suspension was stirred at the same temperature for 0.5 h and treated dropwise with a solution of 1-benzylpiperidin-4-one (1.08 g, 5.68 mmol) in dry THF (10 ml). The reaction mixture was stirred −78° C. for 2 h, slowly warmed to 20-35° C. and continued stirring at 20-35° C. for 16 h. The progress of the reaction was monitored by TLC. The reaction mixture was quenched with NH4Cl solution (2 ml), diluted with water (20 ml) and extracted with ethyl acetate (2×50 ml). The combined organic layers were washed with brine (50 ml), followed by drying over anhydrous Na2SO4 and filtering. The filtrate was rotary evaporated to get residue which was purified by column chromatography using a mixture of 20% ethyl acetate/hexane as an eluent to get the desired compound as an off-white waxy solid (260 mg, 21%).

reactant | n-butyl lithium | C(CCC)[Li]
reactant | n-hexane | 4.38 mmol, 1.6M, 2.69 ml | CCCCCC | C6H14
reactant | 1-benzylpiperidin-4-one | 5.68 mmol, 1.08 g | C(C1=CC=CC=C1)N1CCC(CC1)=O | C12H15NO
reactant | THF | 5 ml | C1CCOC1 | C4H8O
reactant | THF | 10 ml | C1CCOC1 | C4H8O
product | 1-benzyl-4-(3-methylbenzofuran-2-yl)piperidin-4-ol | C(C1=CC=CC=C1)N1CCC(CC1)(O)C=1OC2=C(C1C)C=CC=C2 | C21H23NO2
